US07368472B2
5a {2-Amino-4-[(benzo[b]thiophen-2-ylmethyl)-amino]-phenyl}-carbamic acid propyl ester
Benzo[b]thiophene-2-carbaldehyde (1.36 g, 8.38 mmol) was added to a solution of (4-amino-2-nitro-phenyl)-carbamic acid propyl ester (2.00 g, 8.36 mmol) in acetonitrile (10 mL). The mixture was heated to 160° C. for 2 minutes in a 20 mL sealed microwave process vial. Upon cooling NaBH3CN (1.06 g, 16.7 mmol) and AcOH (48 μL, 0.84 mmol) were added and the mixture was stirred for 30 minutes at 25° C. Water/brine (1:1, 100 mL) was added and the mixture was extracted with ethyl acetate (3×100 mL). The organic phase was dried over magnesium sulphate, filtered and concentrated in vacuo. The crude intermediate was purified by flash chromatography on silica gel (eluent: ethyl acetate:heptane 1:9), and evaporated to dryness. The intermediate was then dissolved in tetrahydrofuran (20 mL) and Na2S2O4 (3.67 g, 21 mmol) dissolved in water (50 mL) was added. The resulting mixture was stirred at 40° C. for 5 hours under argon. The resulting mixture was extracted with ethyl acetate (3×100 mL), the combined organic phases dried over magnesium sulphate, filtered, and concentrated in vacuo. Purification by flash chromatography (eluent: ethyl acetate:heptane 1:1) furnished 0.3 g (10%) of the title compound as a solid. LC/MS (m/z) 356 ([M+H]+); RT=2.45 min. 1H NMR (CDCl3): 0.95 (t, 3H); 1.67 (m, 2H); 4.08 (t, 2H); 4.55 (s, 2H); 6.08 (d, 1H); 6.13 (dd, 1H); 6.93 (d, 1H); 7.20 (s, 1H); 7.27 (dt, 1H); 7.32 (dt, 1H); 7.68 (d, 1H); 7.77 (d, 1H).

reactant | Benzo[b]thiophene-2-carbaldehyde | 8.38 mmol, 1.36 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | (4-amino-2-nitro-phenyl)-carbamic acid propyl ester | 8.36 mmol, 2.00 g | C(CC)OC(NC1=C(C=C(C=C1)N)[N+](=O)[O-])=O | C10H13N3O4
reactant | NaBH3CN | 16.7 mmol, 1.06 g | [BH3-]C#N.[Na+]
reactant | AcOH | 0.84 mmol, 48 μL | CC(=O)O | C2H4O2
reactant | Water brine | 100 mL | O.[Cl-].[Na+].O
reactant | Na2S2O4 | 21 mmol, 3.67 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | {2-Amino-4-[(benzo[b]thiophen-2-ylmethyl)-amino]-phenyl}-carbamic acid propyl ester | 0.3 g, 10% | C(CC)OC(NC1=C(C=C(C=C1)NCC1=CC2=C(S1)C=CC=C2)N)=O | C19H21N3O2S
